US06921763B2
To a solution of N1-(4-bromophenyl)-2-fluoro-4-(trifluoromethyl)-1-benzeneamidoxime (2.25 g, 0.00598 mol) in N-methylpyrrolidinone (30 mL), potassium tert-butoxide (0.71 g, 0.00628 mol) was added and the resulting solution was heated at 100° C. under an atmosphere of nitrogen for 3 hours. The reaction mixture was cooled to ambient temperature, the solvent was removed under reduced pressure and the residue partitioned between saturated solution of sodium bicarbonate in water (50 mL) and ethyl acetate (50 mL). The organic phase was washed with brine, dried with magnesium sulfate and concentrated. The residue was suspended in cold n-heptane and the precipitate was collected by filtration and dried to yield N-(4-bromophenyl)-N-[6-(trifluoromethyl)benzo[d]isoxazol-3-yl]amine (1.75 g, 0.0049 mol) as an off-white solid.

reactant | N1-(4-bromophenyl)-2-fluoro-4-(trifluoromethyl)-1-benzeneamidoxime | 0.00598 mol, 2.25 g | BrC1=CC=C(C=C1)NC(C1=C(C=C(C=C1)C(F)(F)F)F)=NO | C14H9BrF4N2O
reactant | potassium tert-butoxide | 0.00628 mol, 0.71 g | CC(C)([O-])C.[K+]
solvent | N-methylpyrrolidinone | 30 mL | CN1C(CCC1)=O | C5H9NO
product | N-(4-bromophenyl)-N-[6-(trifluoromethyl)benzo[d]isoxazol-3-yl]amine | 0.0049 mol, 1.75 g | BrC1=CC=C(C=C1)NC1=NOC2=C1C=CC(=C2)C(F)(F)F | C14H8BrF3N2O
